US06380218B1
2-Bromomethyl-3,5-dichloro-thiophene
A solution of 3,5-Dichloro-2-methyl-thiophene (1.3 grams, 7.8 mmole), NBS (1.4 grams, 7.8 mmole) and benzoyl peroxide (0.065 g) in carbon tetrachloride (40 ml) was refluxed for 18 hours. The mixture was cooled to 0° C., diluted with 40 ml hexane and filtered. The filtrate was concentrated to an oil which was purified via flash chromatography on silica using hexane as eluent to give an oil (1.06 g). MW 245.95; MS (m/e) 246 (M++1).

reactant | 3,5-Dichloro-2-methyl-thiophene | 7.8 mmole, 1.3 grams | ClC1=C(SC(=C1)Cl)C | C5H4Cl2S
reactant | NBS | 7.8 mmole, 1.4 grams | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | hexane | 40 ml | CCCCCC | C6H14
catalyst | benzoyl peroxide | 0.065 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-Bromomethyl-3,5-dichloro-thiophene | 1.06 g | BrCC=1SC(=CC1Cl)Cl | C5H3BrCl2S
